US06951848B2
5-(2-Methanesulfonyloxy-ethyl)-2-trifluoromethyl-1H-indole-3-carboxylic acid benzyl ester
Methanesulfonyl chloride (0.1 mL, 1.15 mmol, 1 eq) and triethylamine (0.32 mL, 2.30 mmol, 2 eq) were added to 5-(2-hydroxy-ethyl)-2-trifluoromethyl-1H-indole-3-carboxylic acid benzyl ester (420 mg, 1.15 mmol, 1 eq) obtained from previous step in THF (50 mL) solution in 100-mL round bottom flask at room temperature. The reaction mixture was stirred at room temperature for 3 hours (followed by TLC). After the solvent was removed, the residue was dissolved in ethyl acetate (100 mL), and then washed with sat NaHCO4 and brine respectively. The organic layer was dried over MgSO4, and concentrated to give a pale brown solid. The crude was carried over to the next step.

reactant | Methanesulfonyl chloride | 1.15 mmol, 0.1 mL, 1 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.30 mmol, 0.32 mL, 2 eq | C(C)N(CC)CC | C6H15N
reactant | 5-(2-hydroxy-ethyl)-2-trifluoromethyl-1H-indole-3-carboxylic acid benzyl ester | 1.15 mmol, 420 mg, 1 eq | C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=C(C=C12)CCO)C(F)(F)F | C19H16F3NO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-(2-Methanesulfonyloxy-ethyl)-2-trifluoromethyl-1H-indole-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=C(C=C12)CCOS(=O)(=O)C)C(F)(F)F | C20H18F3NO5S
